US05155110
A solution of 1-(2,6-dichloro-3-methylphenyl)-1H-indole-2,3-dione (0.3 g) and hydroxylamine hydrochloride (0.07 g) in pyridine (2 ml) is stirred at room temperature for 20 minutes. The reaction mixture is diluted with ethyl acetate (20 ml) and washed with 1 N HCl (2×100 ml). The organic layer is dried (MgSO4) and evaporated. Flash chromatography (silica, CH2Cl2) followed by recrystallization from isopropyl ether affords 1-(2,6-dichloro-3-methylphenyl)-1H-indole-2,3-dione 3-oxime (256 mg, 80%), mp 190°-191° C.

reactant | 1-(2,6-dichloro-3-methylphenyl)-1H-indole-2,3-dione | 0.3 g | ClC1=C(C(=CC=C1C)Cl)N1C(C(C2=CC=CC=C12)=O)=O | C15H9Cl2NO2
reactant | hydroxylamine hydrochloride | 0.07 g | Cl.NO
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2,6-dichloro-3-methylphenyl)-1H-indole-2,3-dione 3-oxime | 256 mg, 80% | ClC1=C(C(=CC=C1C)Cl)N1C(C(C2=CC=CC=C12)=NO)=O | C15H10Cl2N2O2
